* File: inv.pex.netlist.pex
* Created: Tue Nov  4 23:53:44 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INV_GND! 2 9 11 16
c17 16 0 0.0213523f
c18 9 0 0.00185142f
c19 2 0 0.00183333f
r20 18 22 0.0267575
r21 14 22 0.0198808
r22 14 16 1.02592
r23 11 18 0.791785
r24 9 16 10
r25 2 22 30
.ends

.subckt PM_INV_OUT 1 3 5 8 11 15 18 19 21
c32 8 0 1.87775e-19
c33 3 0 0.00235437f
r34 19 21 0.00432091
r35 15 18 0.959857
r36 11 17 1.1085
r37 8 21 1.7
r38 6 18 0.0693354
r39 6 8 0.105895
r40 5 17 0.0693354
r41 5 8 0.0854933
r42 3 11 10
r43 1 15 10
.ends

.subckt PM_INV_VDD! 2 8 10 15
c20 15 0 0.027758f
r21 17 21 0.0267575
r22 13 21 0.0198808
r23 13 15 1.07255
r24 10 17 0.860762
r25 8 15 10
r26 2 21 30
.ends

.subckt PM_INV_A1 1 2 6 14 15 18 23 25
c39 18 0 2.35568e-19
c40 14 0 7.7337e-19
r41 23 25 0.00432091
r42 18 25 1.7
r43 18 21 0.0048186
r44 14 21 25
r45 14 16 6.91631
r46 14 15 7.05884
r47 6 16 30.3008
r48 4 15 55.8466
r49 2 6 60.6015
r50 1 4 46.6165
.ends

